US04656309
The experiment of Example 1 was repeated using diethyl pivaloylmalonate as the starting material, instead of dimethyl pivaloylmalonate, and using diethyl ether as the solvent. The reaction was carried out at 35° C. for 7 hours. From GLC-analysis it appeared that conversion of starting material was essentially complete and that ethyl pivaloylacetate had been obtained in a yield of 83%. A small amount of ethyl pivalate had been formed, together with diethyl malonate and pivalic acid.

reactant | diethyl pivaloylmalonate | C(C(C)(C)C)(=O)C(C(=O)OCC)C(=O)OCC | C12H20O5
reactant | dimethyl pivaloylmalonate | C(C(C)(C)C)(=O)C(C(=O)OC)C(=O)OC | C10H16O5
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl pivaloylacetate | yield of 83% | C(C(C)(C)C)(=O)CC(=O)OCC | C9H16O3
